US07429665B2
2-((4-(1,3-dimethyl-4-(pyridin-4-yl)-1H-pyrazol-5-yl)phenoxy)methyl)quinoline
A solution of 2-((4-(3-methyl-4-(pyridin-4-yl)-1H-pyrazol-5-yl)phenoxy)methyl)quinoline (150 mg, 0.38 mmol) in anhydrous dimethylformamide (2 mL) was treated at 0° C. with sodium hydride dispersion (30 mg, 0.76 mmol of 60% NaH in oil) followed after 20 min with methyl iodide (54 mg, 0.38 mmol), and the stirred mixture was allowed to warm to RT overnight. Water was added and the mixture extracted with dichloromethane (3×20 mL). The organic layer was dried, concentrated, and the residue chromatographed on silica eluted with an ethyl acetate-hexane gradient containing 1% triethylamine, giving fractions containing two isomeric substances. The less polar isomer (18 mg) was thus obtained (methylation regiochemistry tentatively assigned by NMR). 1H NMR (CDCl3, 400 mHz) δ 8.41 (m, 2H), 8.21 (d, 1H, J=8.7 Hz), 8.07 (d, 1H, J=8.3 Hz), 7.84 (d, 1H, J=9.5 Hz), 7.74 (ddd, 1H), 7.67 (d, 1H, J=8.3 Hz), 7.55 (ddd, 1H), 7.12 (m, 2H), 7.05 (m, 2H), 7.0 (m, 2H), 5.40 (s, 2H), 3.71 (s, 3H), 2.37 (s, 3H). HPLC-MS 4.81 min, m/e 407 (MH+).

reactant | 2-((4-(3-methyl-4-(pyridin-4-yl)-1H-pyrazol-5-yl)phenoxy)methyl)quinoline | 0.38 mmol, 150 mg | CC1=NNC(=C1C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | sodium hydride | [H-].[Na+]
reactant | NaH | 0.76 mmol, 30 mg | [H-].[Na+]
reactant | methyl iodide | 0.38 mmol, 54 mg | CI | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-((4-(1,3-dimethyl-4-(pyridin-4-yl)-1H-pyrazol-5-yl)phenoxy)methyl)quinoline | CN1N=C(C(=C1C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C1=CC=NC=C1)C | C26H22N4O
